US08168784B2
reacting 4-fluoro-3-((trifluoromethyl)sulfonyl)benzenesulfonamide, (1R)-3-morpholin-4-yl-1-((phenylthio)methyl)propylamine and a sixth base to provide 4-(((1R)-3-morpholin-4-yl-1-((phenylthio)methyl)propyl)amino)-3-((trifluoromethyl)sulfonyl)benzenesulfonamide and isolating or not isolating the 4-(((1R)-3-morpholin-4-yl-1-((phenylthio)methyl)propyl)amino)-3-((trifluoromethyl)sulfonyl)benzenesulfonamide; and

reactant | 4-fluoro-3-((trifluoromethyl)sulfonyl)benzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C7H5F4NO4S2
reactant | (1R)-3-morpholin-4-yl-1-((phenylthio)methyl)propylamine | N1(CCOCC1)CC[C@H](CSC1=CC=CC=C1)N | C14H22N2OS
product | 4-(((1R)-3-morpholin-4-yl-1-((phenylthio)methyl)propyl)amino)-3-((trifluoromethyl)sulfonyl)benzenesulfonamide | N1(CCOCC1)CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C21H26F3N3O5S3
